US07618975B2
(2-Chloro-6,7-dimethoxyquinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine
A mixture of 2,4-dichloro-6,7-dimethoxyquinazoline (100 mg, 0.386 mmol), 4-methoxy-N-methylaniline (55 mg, 0.401 mmol) and sodium acetate (60 mg, 0.732 mmol) in tetrahydrofuran (5 mL) and water (2.5 mL) was stirred at room temperature for 48 h. The reaction mixture was evaporated to dryness and the residue was crystallized using ethanol/water and isolated as white solid (60 mg, 60%). 1H NMR (CDCl3): 8.19 (s, 1H), 7.32-7.26 (m, 2H), 7.09-7.07 (m, 2H), 6.16 (s, 1H), 4.03 (s, 3H), 3.87 (s, 3H), 3.75 (s, 3H), 3.32 (s, 3H).

reactant | 2,4-dichloro-6,7-dimethoxyquinazoline | 0.386 mmol, 100 mg | ClC1=NC2=CC(=C(C=C2C(=N1)Cl)OC)OC | C10H8Cl2N2O2
reactant | 4-methoxy-N-methylaniline | 0.401 mmol, 55 mg | COC1=CC=C(NC)C=C1 | C8H11NO
reactant | sodium acetate | 0.732 mmol, 60 mg | C(C)(=O)[O-].[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | 2.5 mL | O | H2O
product | (2-Chloro-6,7-dimethoxyquinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine | 60 mg, 60% | ClC1=NC2=CC(=C(C=C2C(=N1)N(C)C1=CC=C(C=C1)OC)OC)OC | C18H18ClN3O3
